US06107458
To a solution of titanium(IV) chloride (13.88 g) in dichloromethane (100 ml) was added Ethyl 4-acetylbenzoate (11.53 g) and 4-n-pentyloxybenzaldehyde (12.68 g) in dichloromethane (50 ml) was added dropwise at 0° C. To the mixture was added triethylamine (12.44 ml) in dichloromethane (30 ml). The mixture was stirred at 0° C. for 30 minutes and diluted with ethyl acetate. The organic layer was washed with water (four times) and brine and dried over magnesium sulfate. The solvents were removed under reduced pressure and the residue was triturated with n-hexane. The solid was collected by filtration and dried to give 1-(4-n-Pentyloxyphenyl)-3-(4-ethoxycarbonylphenyl)-1-propen-3-one (13.45 g).

reactant | Ethyl 4-acetylbenzoate | 11.53 g | C(C)(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H12O3
reactant | 4-n-pentyloxybenzaldehyde | 12.68 g | C(CCCC)OC1=CC=C(C=O)C=C1 | C12H16O2
reactant | triethylamine | 12.44 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | titanium(IV) chloride | 13.88 g | [Ti](Cl)(Cl)(Cl)Cl
product | 1-(4-n-Pentyloxyphenyl)-3-(4-ethoxycarbonylphenyl)-1-propen-3-one | 13.45 g | C(CCCC)OC1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)C(=O)OCC | C23H26O4
